US06448205B1
Precursor γ: 2,3-Dichloro-5-methylsulfonylpyridine
6.2 g (0.02 mol) of Na2WO4.2H2O were added to a solution of 73.7 g (0.38 mol) of 2,3-dichloro-5-methylthiopyridine in 380 ml of glacial acetic acid. After the mixture had been heated to 40-50° C., 95 g of hydrogen peroxide (30% strength) were added carefully. Stirring was subsequently continued for a further hour at approximately 20° C. The mixture was then poured into 300 ml of water. The product was separated off from the resulting suspension, washed with water and n-pentane and dried under reduced pressure. Yield: 60 g (70%) as a brown powder; m.p.: 129-130° C.; 1H-NMR (in d6 dimethyl sulfoxide): δ [ppm]=3.4 (s, CH3); 8.7 and 8.9 (2×d, pyr H).

reactant | 2,3-dichloro-5-methylthiopyridine | 0.38 mol, 73.7 g | ClC1=NC=C(C=C1Cl)SC | C6H5Cl2NS
reactant | hydrogen peroxide | 95 g | OO | H2O2
reactant | water | 300 ml | O | H2O
reactant | acetic acid | 380 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dichloro-5-methylsulfonylpyridine | ClC1=NC=C(C=C1Cl)S(=O)(=O)C | C6H5Cl2NO2S
